US05428037
To a suspension of lithium aluminum hydride (0.2 g) in 50 ml of ether at 0° C. was added dropwise a solution of ethyl 4,4'-dimethylbiphenyl-3-carboxylate (2 g) in ether. After the addition was complete, the mixture was allowed to slowly rise to room temperature, and stirred for 2 hours. Excess reagent was hydrolysed with wet sodium sulfate. The mixture was filtered, the solvent evaporated from the filtrate under reduced pressure, and the residue flash-chromatographed on silica gel, eluting with 25% ethyl acetate in heptane, to yield 3-hydroxymethyl-4,4'-dimethylbiphenyl as an oil.

reactant | lithium aluminum hydride | 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4,4'-dimethylbiphenyl-3-carboxylate | 2 g | CC1=C(C=C(C=C1)C1=CC=C(C=C1)C)C(=O)OCC | C17H18O2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | 50 ml | CCOCC | C4H10O
product | 3-hydroxymethyl-4,4'-dimethylbiphenyl | OCC=1C=C(C=CC1C)C1=CC=C(C=C1)C | C15H16O
